2165-01-15 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CT abdomen last night; final read pending.   No evidence of
   cholecystitis or pancreatitis.
   Allergies:
   No Known Drug Allergies
   Infusions:
   Insulin - Regular - 2 units/hour
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies nausea, headache, shortness of breath
   Flowsheet Data as of  [**2165-1-15**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 66 (62 - 102) bpm
   BP: 99/50(60) {99/45(58) - 122/66(77)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,083 mL
                                                                  2,665 mL
   PO:
             720 mL
   TF:
   IVF:
                                                                  2,083 mL
                                                                  1,945 mL
   Blood products:
   Total out:
                                                                    275 mL
                                                                    675 mL
   Urine:
                                                                    275 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                  1,990 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   HEENT:  PERRL., mmm,  Normocephalic, no LAD
   Cardiovascular: rrr, s1, s2, no murmurs/rubs
   Respiratory / Chest: CTAB
   Abdominal: Soft, Mildly tender in epigastric and ruq regions, + Bowel
   sounds present
   Extremities: 2+ distal pulses
   Skin:  Warm
   Neurologic: lethargic, but arousable and responsive to questions, exam.
   Labs / Radiology
   334 K/uL
   12.4 g/dL
   120 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.6 mEq/L
   7 mg/dL
   111 mEq/L
   139 mEq/L
   35.6 %
   11.0 K/uL
        [image002.jpg]
                            [**2165-1-14**]  04:50 PM
                            [**2165-1-14**]  09:17 PM
                            [**2165-1-15**]  12:57 AM
                            [**2165-1-15**]  05:23 AM
   WBC
   11.0
   Hct
   35.6
   Plt
   334
   Cr
   0.9
   0.9
   0.8
   0.7
   Glucose
   113
   229
   188
   120
   Other labs: ALT / AST:37/32, Alk Phos / T Bili:126/, Amylase /
   Lipase:[**Telephone/Fax (1) 4389**], Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
   This is a 21 yo F with hx type I DM who presents with DKA.
   #Diabetic ketoacidosis: Pt on insulin gtt and D5 with improvement in
   anion gap acidosis (Gap now 10).
   - trend AG, lytes q 4 hours (next set at 10am)
   - decrease insulin gtt, to 2u/hr and dextrose gtt to keep glucoses
   between 150-250
   - follow urine ketones q4-6 hours
   - [**Last Name (un) 303**] consult today for guidance with reinitiation of pump vs
   subcutaneous insulin
   # Hematemesis:  No vomiting since admission; nausea improved and Hct is
   stable.  Likely small esophageal tear from several days of vomiting.
   - Pm hct check
   - zofran PRN nausea
   # Lipase elevation:  CT scan last night without evidence of
   pancreatitis, no evidence of of gall stones.  Pt scheduled for RUQ
   ultrasound in AM to further assess for radiolucent stones, but given
   improvement in exam, will defer this for now.  Elevated enzymes may be
   related to DKA process.
   - follow repeat lipase today
   # FEN: replete lytes PRN with q4 lytes checks.
   - IV fluid to maintain UOP >50
   - advance clears to diabetic diet as tolerated.
   ICU Care
   Nutrition: clears
   Glycemic Control:  Insulin gtt
   Lines:
   20 Gauge - [**2165-1-14**] 05:13 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   Code status:  FULL
   Disposition: possible transfer to floor this PM

2165-01-15 10:37:00 Physician Attending Progress Note
Chief Complaint: DKA, hyperchloremic acidosis, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient maintained on insulin infusion overnight. Rate down to 2
   units/hr this AM. Given volume resuscitation and potassium repletion.
   Abdominal CT obtained for pain and elevated Lipase. Preliminary [**Location (un) **]
   indicates no acute pathology.
   O2 sats good witout supplemental oxygen.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Other ICU medications:
   Other medications:
   heparin sc, protnix, azithromycin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-15**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 67 (62 - 102) bpm
   BP: 106/50(61) {99/45(58) - 122/66(77)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,083 mL
                                                                  3,115 mL
   PO:
             720 mL
   TF:
   IVF:
                                                                  2,083 mL
                                                                  2,395 mL
   Blood products:
   Total out:
                                                                    275 mL
                                                                    675 mL
   Urine:
                                                                    275 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                  2,442 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), physiological split S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Bilateral, No(t) Crackles : , No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: ), Good air movement
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Very mild, epigastrium. No guarding.
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   334 K/uL
   120 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.6 mEq/L
   7 mg/dL
   111 mEq/L
   139 mEq/L
   35.6 %
   11.0 K/uL
        [image002.jpg]
                            [**2165-1-14**]  04:50 PM
                            [**2165-1-14**]  09:17 PM
                            [**2165-1-15**]  12:57 AM
                            [**2165-1-15**]  05:23 AM
   WBC
   11.0
   Hct
   35.6
   Plt
   334
   Cr
   0.9
   0.9
   0.8
   0.7
   Glucose
   113
   229
   188
   120
   Other labs: ALT / AST:37/32, Alk Phos / T Bili:126/, Amylase /
   Lipase:[**Telephone/Fax (1) 4389**], Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR: still suggestion of air bronchograms and subtle
   infiltrate in the posterobasal segment of RLL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
   HYPERCHLOREMIC ACIDOSIS
   ELECTROLYTES
   ELEVATED LIPASE
   PNEUMONIA
   Glucose at normal level this AM. Anion gap has resolved. Can switch to
   sc insulin or her baselein pump today. Electrolytes need additional
   repletion, particularly potassium and magnesium.
   Patient now with hyperchloremic, non-gap acidosis. Would switch IV
   fluid to lactated Ringers rather than NS.
   Abdominal exam improved. Lipase remains elevated; may be part of DKA.
   No evidence on CT of pancreatitis. Patient admits to minimal EtOH
   ingestion.
   Subtle infiltrate persists on CXR but no symptoms of pneumonia.
   Complete course of azithro.
   ICU Care
   Nutrition: oral
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2165-1-14**] 05:13 PM
   Prophylaxis:
   DVT: ambulating.
   Stress ulcer:
   VAP:  not applicable
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2165-01-16 07:16:00 Physician Resident Progress Note
Chief Complaint: dka
   24 Hour Events:
   - CT abd pelvis wet read uncomplicated pancreatitis
   - [**Doctor First Name 354**]/lip --> [**Telephone/Fax (1) 4389**]
   - Gap closing ; pm lytes - AG 12 > 11 > 7
   - Hct 35.6 > 33.2 > 36.2
   - RUQ u/s for ? radiolucent stones PENDING (scheduled but not
   performed)
   - 2 L ivf up until MN before rounds ; uop 700 cc in that time span (3 L
   positive before rounds)
   - u ketones - 150 --> 40
   - 1 L bolus at am rounds
   - [**Last Name (un) 303**] attg - NOT ready to transition to sq insulin as bicarb
   decreased again to 16. Would not d/c insulin gtt until Bicarb 20.
   Advise to continue gtt with dextrose prn, and will plan to use sw
   insulin as bridge to pump
   - FS 80s o/n - started on D5W 125 cc/hr and insulin gtt turned down to
   2u/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Reports abd pain better than yesterday. Otherwise, no complaints.
   Flowsheet Data as of  [**2165-1-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 65 (65 - 102) bpm
   BP: 111/68(79) {105/49(61) - 127/76(88)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,283 mL
                                                                    855 mL
   PO:
                                                                  1,200 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,083 mL
                                                                    615 mL
   Blood products:
   Total out:
                                                                  3,435 mL
                                                                  1,200 mL
   Urine:
                                                                  3,435 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    848 mL
                                                                   -343 mL
   Respiratory support
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   HEENT:  PERRL., mmm,  Normocephalic, no LAD
   Cardiovascular: rrr, s1, s2, no murmurs/rubs
   Respiratory / Chest: CTAB
   Abdominal: Soft, Mildly tender in epigastric and ruq regions, + Bowel
   sounds present
   Extremities: 2+ distal pulses
   Skin:  Warm
   Neurologic: lethargic, but arousable and responsive to questions, exam.
   Labs / Radiology
   331 K/uL
   12.9 g/dL
   82 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.2 mEq/L
   3 mg/dL
   108 mEq/L
   138 mEq/L
   36.7 %
   9.2 K/uL
        [image002.jpg]
                            [**2165-1-14**]  04:50 PM
                            [**2165-1-14**]  09:17 PM
                            [**2165-1-15**]  12:57 AM
                            [**2165-1-15**]  05:23 AM
                            [**2165-1-15**]  09:44 AM
                            [**2165-1-15**]  02:03 PM
                            [**2165-1-15**]  09:51 PM
                            [**2165-1-16**]  05:25 AM
   WBC
   11.0
   10.1
   9.2
   Hct
   35.6
   33.2
   36.2
   36.7
   Plt
   [**Telephone/Fax (3) 4413**]
   Cr
   0.9
   0.9
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   113
   229
   188
   120
   130
   200
   98
   82
   Other labs: ALT / AST:37/32, Alk Phos / T Bili:126/, Amylase /
   Lipase:[**Telephone/Fax (1) 4389**], Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, Ca++:9.0
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   21 yo F with hx type I DM who presents with DKA.
   #Diabetic ketoacidosis: Pt on insulin gtt and D5 with improvement in
   anion gap acidosis (Gap now 9). Total insulin requirements between MN
   and 8 am is 15 U.  Bicarbonate [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 2
   - continue insulin gtt and dextrose gtt to keep glucoses between
   150-250
   - start sq insulin with lantus 25 now with humalog at meals
   - plan to d/cinsulin gtt 2 hrs after starting lantus
   - follow urine ketones q4-6 hours
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] consult re: initiating sq insulin and later pump insulin
   # Hematemesis:  No vomiting since admission; nausea improved and Hct is
   stable.  Likely small esophageal tear from several days of vomiting.
   Hct stable
   - zofran PRN nausea
   # Lipase elevation:  CT scan last night without evidence of
   pancreatitis, no evidence of of gall stones.  Pt scheduled for RUQ
   ultrasound in AM to further assess for radiolucent stones, but given
   improvement in exam, will defer this for now.  Elevated enzymes may be
   related to DKA process.
   - f/u CT final read
   # FEN: replete lytes PRN with q8 lytes checks.
   - IV fluid to maintain UOP >50
   - replete lytes with attention to K and phos
   - continue diabetic diet
   # Disposition: Plan to call out of icu when off insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-1-14**] 05:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-01-16 09:46:00 Physician Attending Progress Note
Chief Complaint: DKA, abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's anion gap has normalized.  Patient maintained on IV insulin
   overnight.
   Abdominal CT showing evidence of pancreatitis. Abdominal pain improved.
   Potassium repletion continues.
   24 Hour Events:
 NASAL SWAB - At [**2165-1-15**] 01:58 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Other medications:
   heparin sc, insulin, neutrophos, zofran, protonix, compazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-16**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 61 (57 - 102) bpm
   BP: 111/68(79) {105/49(63) - 127/76(88)} mmHg
   RR: 13 (13 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,283 mL
                                                                    915 mL
   PO:
                                                                  1,200 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,083 mL
                                                                    675 mL
   Blood products:
   Total out:
                                                                  3,435 mL
                                                                  1,200 mL
   Urine:
                                                                  3,435 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    848 mL
                                                                   -285 mL
   Respiratory support
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): time, person, place, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   331 K/uL
   82 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.2 mEq/L
   3 mg/dL
   108 mEq/L
   138 mEq/L
   36.7 %
   9.2 K/uL
        [image002.jpg]
                            [**2165-1-14**]  04:50 PM
                            [**2165-1-14**]  09:17 PM
                            [**2165-1-15**]  12:57 AM
                            [**2165-1-15**]  05:23 AM
                            [**2165-1-15**]  09:44 AM
                            [**2165-1-15**]  02:03 PM
                            [**2165-1-15**]  09:51 PM
                            [**2165-1-16**]  05:25 AM
   WBC
   11.0
   10.1
   9.2
   Hct
   35.6
   33.2
   36.2
   36.7
   Plt
   [**Telephone/Fax (3) 4413**]
   Cr
   0.9
   0.9
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   113
   229
   188
   120
   130
   200
   98
   82
   Other labs: ALT / AST:37/32, Alk Phos / T Bili:126/, Amylase /
   Lipase:[**Telephone/Fax (1) 4389**], Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, Ca++:9.0
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
   PANCREATITIS
   Patient doing well. Abdominal pain improved. Anion gap has normalized.
   Eating increased. Will transition to sc insulin and advance diet.
   Continue to replete potassium.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2165-1-14**] 05:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2165-01-17 06:42:00 Physician Resident Progress Note
Chief Complaint: dka
   24 Hour Events:
   -Started SQ insulin Lantus 35, with 3 hour overlap w/ drip. then
   stopped drip, but patient with sugars in excess of 400, uncontrolled on
   her standing plus activation of her smart pump. Therefore, per Jos.,
   restarted Insulin drip.
   -Not called out to floor because of poor control on new recommended
   regimen.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-17**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 61 (57 - 95) bpm
   BP: 122/68(84) {119/65(79) - 127/82(91)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,309 mL
                                                                    202 mL
   PO:
                                                                  1,560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    749 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    200 mL
   Urine:
                                                                  1,900 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    409 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   HEENT:  PERRL., mmm,  Normocephalic, no LAD
   Cardiovascular: rrr, s1, s2, no murmurs/rubs
   Respiratory / Chest: CTAB
   Abdominal: Soft, Mildly tender in epigastric and ruq regions, + Bowel
   sounds present
   Extremities: 2+ distal pulses
   Skin:  Warm
   Neurologic: lethargic, but arousable and responsive to questions, exam.
   Labs / Radiology
   321 K/uL
   12.6 g/dL
   74 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   6 mg/dL
   104 mEq/L
   141 mEq/L
   36.0 %
   8.8 K/uL
        [image002.jpg]
                            [**2165-1-14**]  04:50 PM
                            [**2165-1-14**]  09:17 PM
                            [**2165-1-15**]  12:57 AM
                            [**2165-1-15**]  05:23 AM
                            [**2165-1-15**]  09:44 AM
                            [**2165-1-15**]  02:03 PM
                            [**2165-1-15**]  09:51 PM
                            [**2165-1-16**]  05:25 AM
                            [**2165-1-16**]  03:26 PM
                            [**2165-1-17**]  03:56 AM
   WBC
   11.0
   10.1
   9.2
   8.8
   Hct
   35.6
   33.2
   36.2
   36.7
   36.0
   Plt
   [**Telephone/Fax (3) 4440**]21
   Cr
   0.9
   0.9
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.8
   0.5
   Glucose
   113
   229
   188
   120
   130
   200
   98
   82
   331
   74
   Other labs: ALT / AST:37/32, Alk Phos / T Bili:126/, Amylase /
   Lipase:[**Telephone/Fax (1) 4389**], Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   21 yo F with hx type I DM who presents with DKA. Was transitioned off
   IV insulin yetsterday, but required this to be restarted for sugars in
   the 400s. Now sugars improved again on Insulin iv.
   #Diabetic ketoacidosis: AG 10 and BS 74.
   - continue insulin gtt and dextrose gtt to keep glucoses between
   150-250
   - start sq insulin with lantus 25 now with humalog at meals
   - plan to d/cinsulin gtt 2 hrs after starting lantus
   - follow urine ketones q4-6 hours
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] consult re: initiating sq insulin and later pump insulin
   # Hematemesis:  No vomiting since admission; nausea improved and Hct is
   stable.  Likely small esophageal tear from several days of vomiting.
   Hct stable
   - zofran PRN nausea
   # Lipase elevation:  CT scan last night without evidence of
   pancreatitis, no evidence of of gall stones.  Pt scheduled for RUQ
   ultrasound in AM to further assess for radiolucent stones, but given
   improvement in exam, will defer this for now.  Elevated enzymes may be
   related to DKA process.
   - f/u CT final read
   # FEN: replete lytes PRN with q8 lytes checks.
   - IV fluid to maintain UOP >50
   - replete lytes with attention to K and phos
   - continue diabetic diet
   # Disposition: Plan to call out of icu when off insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-1-14**] 05:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-01-17 10:52:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Blood sugars rose yesterday afternoon and patient placed back on
   insulin infusion. Anion gap remained in the normal range.
   Abdominal pain nearly resolved.
   24 Hour Events:
                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Other medications:
   Azithromycin, zofran, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-17**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 51 (51 - 95) bpm
   BP: 124/68(86) {122/65(79) - 127/74(86)} mmHg
   RR: 11 (11 - 23) insp/min
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  2,309 mL
                                                                    558 mL
   PO:
                                                                  1,560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    749 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    200 mL
   Urine:
                                                                  1,900 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    409 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Good air movement bilaterally, No(t) Crackles :
   , No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent
   : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.6 g/dL
   321 K/uL
   74 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   6 mg/dL
   104 mEq/L
   141 mEq/L
   36.0 %
   8.8 K/uL
        [image002.jpg]
                            [**2165-1-14**]  04:50 PM
                            [**2165-1-14**]  09:17 PM
                            [**2165-1-15**]  12:57 AM
                            [**2165-1-15**]  05:23 AM
                            [**2165-1-15**]  09:44 AM
                            [**2165-1-15**]  02:03 PM
                            [**2165-1-15**]  09:51 PM
                            [**2165-1-16**]  05:25 AM
                            [**2165-1-16**]  03:26 PM
                            [**2165-1-17**]  03:56 AM
   WBC
   11.0
   10.1
   9.2
   8.8
   Hct
   35.6
   33.2
   36.2
   36.7
   36.0
   Plt
   [**Telephone/Fax (3) 4440**]21
   Cr
   0.9
   0.9
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.8
   0.5
   Glucose
   113
   229
   188
   120
   130
   200
   98
   82
   331
   74
   Other labs: ALT / AST:37/32, Alk Phos / T Bili:126/, Amylase /
   Lipase:[**Telephone/Fax (1) 4389**], Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIABETIC KETOACIDOSIS (DKA)
   Patient doing well. Will stop insulin infusion and restart her pump.
   Increase ambulation.
   Abdominal pain resolved.
   Stop antibiotics; no evidence at this time for infection.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2165-1-14**] 05:13 PM
   Prophylaxis:
   DVT: (Patient ambulating)
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2165-01-18 06:47:00 Physician Resident Progress Note
Chief Complaint: dka
   24 Hour Events:
   off insulin ggt but continued to have elevated sugars (300-400).
   changes made to insulin pump sensitivity [**First Name8 (NamePattern2) **] [**Last Name (un) **] (insulin life to 3
   hours, sensitivity to 1:15).  Still wasn't working; tried subcutaneous
   injections (q3 fs and starting at Glucose 125 for every 15 over 125 she
   gets a unit) rather than pump and blood sugars responded well...
   leading to the conclusion that her pump doesn't work!
   low BS to 68 in am --> treated with pos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies cp, sob, abd pain
   Flowsheet Data as of  [**2165-1-18**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 70 (51 - 78) bpm
   BP: 123/62(87) {116/62(86) - 126/77(87)} mmHg
   RR: 16 (11 - 23) insp/min
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  1,441 mL
                  PO:
                                                                    840 mL
                  TF:
   IVF:
                                                                    601 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    741 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   HEENT:  PERRL., mmm,  Normocephalic, no LAD
   Cardiovascular: rrr, s1, s2, no murmurs/rubs
   Respiratory / Chest: CTAB
   Abdominal: Soft, nt, nd, no hsm
   Extremities: 2+ distal pulses
   Skin:  Warm
   Neurologic: lethargic, but arousable and responsive to questions, exam.
   Labs / Radiology
   321 K/uL
   12.6 g/dL
   146 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   137 mEq/L
   36.0 %
   8.8 K/uL
        [image002.jpg]
                            [**2165-1-15**]  12:57 AM
                            [**2165-1-15**]  05:23 AM
                            [**2165-1-15**]  09:44 AM
                            [**2165-1-15**]  02:03 PM
                            [**2165-1-15**]  09:51 PM
                            [**2165-1-16**]  05:25 AM
                            [**2165-1-16**]  03:26 PM
                            [**2165-1-17**]  03:56 AM
                            [**2165-1-17**]  04:44 PM
                            [**2165-1-18**]  04:24 AM
   WBC
   11.0
   10.1
   9.2
   8.8
   Hct
   35.6
   33.2
   36.2
   36.7
   36.0
   Plt
   [**Telephone/Fax (3) 4440**]21
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.8
   0.5
   0.7
   0.7
   Glucose
   188
   120
   130
   200
   98
   82
   [**Telephone/Fax (2) 4462**]6
   Other labs: ALT / AST:37/32, Alk Phos / T Bili:126/, Amylase /
   Lipase:[**Telephone/Fax (1) 4389**], Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, Ca++:9.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   21 yo F with hx type I DM who presents with DKA.  DKA now resolved but
   patient continues to have elevated BSs most likely [**3-3**] to pump
   malfunction.
   #Diabetic ketoacidosis/Hyperglycemia: Acidosis resolved for 2 days. No
   obvious etiology. BS better controlled with SQ insulin SS, but FS was
   low this am.
   - continue aggressive insulin SS and f/u with [**Last Name (un) 303**] re: reccs
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] consult re: initiating sq insulin later today
   .
   # Hematemesis:  No vomiting since admission; nausea improved and Hct is
   stable.  Likely small esophageal tear from several days of vomiting.
   Hct stable
   - zofran PRN nausea
   -  d/c ppi
   .
   # CAP: No signs of pna on exam or lab values.
   - d/cd azithromycin on [**1-17**] after 2 days
   .
   # Lipase elevation:  CT scan on admission with uncomplicated
   pancreatitis. Elevated enzymes may be related to DKA process. Enzymes
   trending down. Clinically no evidence of pancreatitis on exam.
   .
   # FEN: replete lytes PRN with q8 lytes checks.
   - IV fluid to maintain UOP >50
   - replete lytes with attention to K and phos
   - continue diabetic diet
   # Disposition: Plan to call out of icu when off insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-1-14**] 05:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-01-18 11:33:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hyperglycemia through the evening, probably due to malfunctioning
   insulin pump. Patient has been switched back to sc insulin with
   improved control. No increase in anion gap.
   24 Hour Events:
 CALLED OUT
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-18**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 66 (64 - 78) bpm
   BP: 126/64(87) {116/62(87) - 126/77(87)} mmHg
   RR: 18 (16 - 20) insp/min
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  1,441 mL
                                                                    360 mL
   PO:
                                                                    840 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    601 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    741 mL
                                                                    360 mL
   Respiratory support
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.6 g/dL
   321 K/uL
   146 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   137 mEq/L
   36.0 %
   8.8 K/uL
        [image002.jpg]
                            [**2165-1-15**]  12:57 AM
                            [**2165-1-15**]  05:23 AM
                            [**2165-1-15**]  09:44 AM
                            [**2165-1-15**]  02:03 PM
                            [**2165-1-15**]  09:51 PM
                            [**2165-1-16**]  05:25 AM
                            [**2165-1-16**]  03:26 PM
                            [**2165-1-17**]  03:56 AM
                            [**2165-1-17**]  04:44 PM
                            [**2165-1-18**]  04:24 AM
   WBC
   11.0
   10.1
   9.2
   8.8
   Hct
   35.6
   33.2
   36.2
   36.7
   36.0
   Plt
   [**Telephone/Fax (3) 4440**]21
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.8
   0.5
   0.7
   0.7
   Glucose
   188
   120
   130
   200
   98
   82
   [**Telephone/Fax (2) 4462**]6
   Other labs: ALT / AST:37/32, Alk Phos / T Bili:126/, Amylase /
   Lipase:[**Telephone/Fax (1) 4389**], Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, Ca++:9.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIABETIC KETOACIDOSIS (DKA)
   Patient now solely on sc insulin. No evidence of acidosis. To be
   discharged today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2165-1-14**] 05:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication:  Comments:
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 30 minutes